US05004743
Step 1 Preparation of 5-benzoyl-2-pentanone
To a -10° C. solution of 4-acetylbutyric acid (1 mm, 130 mg) in benzene (1.5 cc) and dichloromethane (1.5 cc) was added oxalyl chloride (1.1 mm, 140 mg) followed by a drop of N,N-dimethylformamide; the mixture was then brought to 25° C. for 30 minutes. It was then cooled to -10° C. and AlCl3 (2 mm, 266 mg) was added portion wise and the mixture held at 0° C. for 1 hour. Ice was added, followed by 1N HCl. Then the product was extracted with ethyl acetate (2×10 cc). The organic phase was washed with dilute NaHCO3 /brine and the solvents removed in vacuo to afford the title compound.

reactant | 4-acetylbutyric acid | 130 mg | C(C)(=O)CCCC(=O)O | C6H10O3
reactant | oxalyl chloride | 140 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 266 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 1N | Cl | ClH
solvent | benzene | 1.5 cc | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 1.5 cc | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-benzoyl-2-pentanone | C(C1=CC=CC=C1)(=O)CCCC(C)=O | C12H14O2
